US08957089B2
79.2 N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-2-(1H-imidazol-2-yl)-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide
The crude N-(2,2-dimethoxyethyl)-1-[1-(4-fluorophenyl)cyclobutyl]-7-{2-[(propylsulfonyl)amino]ethoxy}-3,4-dihydroisoquinoline-2(1H)-carboximidamide (see above) was dissolved in acetonitrile (5 mL). Concentrated aqueous hydrochloric acid was added until the reaction mixture remained at pH 1. After stirring at room temperature over night the solvent was evaporated in vacuo. Water (10 mL) was added and the mixture was neutralized with aqueous saturated NaHCO3 solution. The mixture was extracted with dichloromethane (2×10 mL). The combined organic layers were dried (MgSO4) and the solvent was evaporated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane then dichloromethane:methanol=80:1). Yield: 2.8 mg (5.5 μmol, 2%).

reactant | N-(2,2-dimethoxyethyl)-1-[1-(4-fluorophenyl)cyclobutyl]-7-{2-[(propylsulfonyl)amino]ethoxy}-3,4-dihydroisoquinoline-2(1H)-carboximidamide | COC(CNC(=N)N1C(C2=CC(=CC=C2CC1)OCCNS(=O)(=O)CCC)C1(CCC1)C1=CC=C(C=C1)F)OC | C29H41FN4O5S
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-2-(1H-imidazol-2-yl)-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide | FC1=CC=C(C=C1)C1(CCC1)C1N(CCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC)C=1NC=CN1 | C27H33FN4O3S
